US04970207
To a solution of a mixture (0.7 g) of (3R)-1-(2-acetoxyethyl) -1,3-dihydro-5-phenyl-3-[((2S)-2-tert-butoxycarbonylamino-3-phenylpropanoyl)amino]-2H-1,4-benzodiazepine-2-one and (3S)-1-(2-acetoxyethyl)-1,3-dihydro-5-phenyl-3-[((2S)-2-tert-butoxycarbonylamino-3-phenylpropanoyl)amino]-2H-1,4-benzodiazepine-2-one in ethyl acetate (20 ml) was introduced hydrogen chloride gas under cooling in an ice-bath with stirring. After the solution was saturated with hydrogen chloride, the mixture was stirred for 30 minutes under the same temperature and for 1 hour at ambient temperature. After removal of the hydrogen chloride by bubbling dried nitrogen gas, the mixture was evaporated under reduced pressure. To the residue was added water and the mixture was neutralized with a saturated aqueous solution of sodium bicarbonate. The mixture was extracted with ethyl acetate twice and the extract was washed with water and dried over magnesium sulfate. Removal of the solvent afforded a mixture (0.57 g) of (3R)-1-(2-acetoxyethyl)-3-[((2S)-2-amino-3-phenylpropanoyl)amino]-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one and (3S)-1-(2-acetoxyethyl)-3-[((2S)-2-amino-3phenylpropanoyl)amino]-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one.

reactant | (3R)-1-(2-acetoxyethyl) -1,3-dihydro-5-phenyl-3-[((2S)-2-tert-butoxycarbonylamino-3-phenylpropanoyl)amino]-2H-1,4-benzodiazepine-2-one | 0.7 g | C(C)(=O)OCCN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)=O | C33H36N4O6
reactant | (3S)-1-(2-acetoxyethyl)-1,3-dihydro-5-phenyl-3-[((2S)-2-tert-butoxycarbonylamino-3-phenylpropanoyl)amino]-2H-1,4-benzodiazepine-2-one | C(C)(=O)OCCN1C([C@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)=O | C33H36N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-acetoxyethyl)-3-[((2S)-2-amino-3-phenylpropanoyl)amino]-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one | 0.57 g | C(C)(=O)OCCN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)N)=O)=O | C28H28N4O4
